US06537994B2
4-{3-[2-(4-{2-[2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-imidazo[4,5-b]pyridin-3-yl}-phenyl)-ethylamino]-2-hydroxy-propoxy}-phenol
2-(4-{2-[2-Chloro-4-(3-methyl-1 H-pyrazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)-1-ethanamine formate (0.212 g, 0.447 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.18 g, 0.44 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol) to give the title compound (0.18 g, 0.216 mmol).

reactant | 2-(4-{2-[2-Chloro-4-(3-methyl-1 H-pyrazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)-1-ethanamine formate | 0.447 mmol, 0.212 g | C(=O)O.ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCN
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.44 mmol, 0.18 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-{3-[2-(4-{2-[2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-imidazo[4,5-b]pyridin-3-yl}-phenyl)-ethylamino]-2-hydroxy-propoxy}-phenol | 0.216 mmol, 0.18 g | ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNCC(COC1=CC=C(C=C1)O)O | C33H31ClN6O3
